US20010049445A1
4-[2-(7-Chloromethyl-benzo[b]thiophen-4-yloxy)-ethyl]-5-methyl-2-phenyl-oxazole
A solution of 335 mg of 4-[2-(Benzo[b]thiophene-4-yloxy)-ethyl]-5-methyl-2-phenyl-oxazole (1 mmol) and 110 mg of Trioxane (3.6 mmol) in 15 ml dichloromethane was treated with 2 ml of 37% HCl solution and saturated for 10 min with HCl gas and reacted at 2° C. for 23 h. The resulting mixture was extracted wich 10% sodium carbonate solution and water and evaporated to dryness. Digestion with tert. butyl methylether at room temperature left a light brown residue (0.11 g) consisting of 4-[2-(7-Chloromethyl-benzo[b]thiophen-4-yloxy)-ethyl]-5-methyl-2-phenyl-oxazole with a m.p. of 144-145° C.

reactant | 4-[2-(Benzo[b]thiophene-4-yloxy)-ethyl]-5-methyl-2-phenyl-oxazole | 1 mmol, 335 mg | S1C2=C(C=C1)C(=CC=C2)OCCC=2N=C(OC2C)C2=CC=CC=C2 | C20H17NO2S
reactant | Trioxane | 3.6 mmol, 110 mg | O1OOCCC1 | C3H6O3
reactant | HCl | 2 ml | Cl | ClH
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 4-[2-(7-Chloromethyl-benzo[b]thiophen-4-yloxy)-ethyl]-5-methyl-2-phenyl-oxazole | ClCC1=CC=C(C2=C1SC=C2)OCCC=2N=C(OC2C)C2=CC=CC=C2 | C21H18ClNO2S
